US04137313
8.7 gm (0.2 mol) of a 55% dispersion of sodium hydride in oil were added over a period of 15 minutes at a temperature of 0° C. and in a nitrogen atmosphere to a solution of 40.0 gm (0.18 mol) of ethyl 5-chloro-indole-2-carboxylate in 150 ml of hexamethyl-phosphoric acid triamide. After stirring the resulting mixture for 2.5 hours at room temperature, 35.5 gm (0.25mol) of methyl iodide were added dropwise, while cooling. After stirring overnight, 1200 ml of ice water were added to the mixture, while externally cooling on an ice bath. The aqueous mixture was then extracted 5 times with 150 ml of ether each. The combined ether extracts were washed with water 5 times, dried over magnesium sulfate, and evaporated in vacuo. The raw product was then recrystallized from petroleum ether, yielding 35.8 gm (85% of theory) of ethyl 5-chloro-1-methyl-indole-2-carboxylate. M.p.: 81.5°-82° C.

reactant | sodium hydride | [H-].[Na+]
reactant | ethyl 5-chloro-indole-2-carboxylate | 0.18 mol, 40.0 gm | ClC=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H10ClNO2
reactant | methyl iodide | 0.25mol, 35.5 gm | CI | CH3I
solvent | hexamethyl-phosphoric acid triamide | 150 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | ethyl 5-chloro-1-methyl-indole-2-carboxylate | 35.8 gm, 85% | ClC=1C=C2C=C(N(C2=CC1)C)C(=O)OCC | C12H12ClNO2
